Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Latex
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
Thoracentesis (x2)
Chest Tube
Bronchoscopy

 
History of Present Illness:
___ with newly diagnosed Stage IV NSCLC, rapidly progrsesive, 
presenting to clinic today with SOB. She was diagnosed on ___ 
after a ___ week history of cough following which the patient 
palpated a R supraclavicular node. One week ago the pt was seen 
by medical oncology and is now s/p a right supraclavicular node 
biopsy that revealed NSCLC. She presented for follow up PET/CT 
and subsequently to clinic today. and found be hypoxic (O2 sat 
___ on RA). The patient was recently started on prednisone 80 mg 
daily by her PCP for the last 2 days without significant 
improvement.  
.  
Upon further ROS: The pt denies fevers, chills, headache, chest 
pain, nausea, vomitting, diarrhea, dysuria. The patient notes 
mild constipation when taking Vicoden.  

 
Past Medical History:
Past Oncology History:  
- Initial symptoms: cough, supraclavicular lymph node, nodular 
mass lower abdomen  
- CXR demonstrated R hilar mass. CT on ___ showed 3.5 X 3.7 
cm R hilar mass with marked narrowing of the right upper lobe 
bronchus and apparent obstruction of the posterior bronchus to 
the right upper lobe. Bulky bilateral mediastinal 
lymphadenopathy was noted. The  
dominant lymph node mass in the right paratracheal region 
measured 2.9 x 2.7 cm, with a dominant conglomerate nodal mass 
in the precarinal lesion measuring 3.3 x 2.8 cm. Multiple lymph 
nodes were identified throughout the mediastinum including the 
prevascular space bilaterally, the posterior subcarinal space, 
and the right hilum. There was a moderate dependent right 
pleural effusion and a small left pleural effusion as well as a 
small pericardial effusion. Also noted was a 2.8 x 1.9 cm nodule 
within the periphery of the right upper lobe. Heterogeneous 
enhancement of the left adrenal gland was seen, measuring 1.9 x 
1.8 cm. In addition, an enlarged left supraclavicular lymph node 
measured 1.4 x 1 cm. Several lucent vertebral body lesions were 
identified in the lower thoracic spine.  
- Excisional biopsy of the right supraclavicular lymph node on 
___.  
- Pathology: poorly differentiated neuroendocrine carcinoma of 
pulmonary origin, probably best characterized as large cell 
type, although there is considerable variation in cell size. No 
e/o lymphoproliferative disorder.  
.  
Past Medical History:  
1. L4/L5 spondylolisthesis with synovial cyst resected in  
___.  
2. Left piriformis syndrome.  
3. Hypertension.  
4. Status post hysterectomy in ___ for leiomyomata with foci of 
 
atypical hyperplasia of the endometrium, focally involving an  
endometrial polyp.  

 
Social History:
___
Family History:
The patient's mother died at age ___ from squamous cell carcinoma 
of the oral cavity. Her father died of congestive heart failure 
at age ___. She has no siblings. Her  paternal aunt was diagnosed 
with breast cancer in her ___.  
.  

 
Physical Exam:
Tc 97.3 BP 125/79 HR 95 RR 28 93% 3L NC  
Gen: Mild Distress, Sitting upright, AOx3  
HEENT: PEERLA, EOMI, OP without exudates or erythema  
Neck: Supple  
Resp: Healing R supraclavicular bx site with palpable node, 
bilateral diffuse expiratory wheezes, no accessory muscle use, 
decreased BS at bases, coarse BS throughout.  
Card: Regular, S1S2 No MRG  
Abd: Palpable non-tender mobile 2cm nodule in LLQ, soft, 
slightly protuberant, non-tender, non-distended, BS+  
Extr: Trace edema bilaterally, Bilateral mild ulnar deviation of 
the phalanges  
Neuro: AOx3, CNII-XII tested and intact. ___ strength and 
sensation in upper and lower extremities, normal finger to nose 
bilaterally.  
Psych: Patient visibly anxious but appropriate conversation.  

 
Pertinent Results:
Admission Labs:
___ 04:40PM   WBC-25.2*# RBC-4.08* HGB-12.0 HCT-35.7* 
MCV-88 MCH-29.5 MCHC-33.7 RDW-13.2
___ 04:40PM   NEUTS-86.9* LYMPHS-5.3* MONOS-5.6 EOS-2.0 
BASOS-0.3
___ 04:40PM   PLT COUNT-570*
___ 04:40PM   ___ PTT-35.1* ___
___ 04:40PM   CALCIUM-9.7 PHOSPHATE-3.3 MAGNESIUM-2.5 URIC 
ACID-4.5
___ 04:40PM   CK-MB-5 cTropnT-<0.01 proBNP-2531*
___ 04:40PM   LIPASE-23
___ 04:40PM   ALT(SGPT)-26 AST(SGOT)-35 LD(LDH)-370* ALK 
PHOS-148* AMYLASE-59 TOT BILI-0.2
___ 04:40PM   GLUCOSE-69* UREA N-19 CREAT-0.7 SODIUM-130* 
POTASSIUM-4.2 CHLORIDE-85* TOTAL CO2-26 ANION GAP-23*
.
CT Head ___
IMPRESSION: There is no evidence of abnormal enhancement or 
evidence of focal
or diffuse lesions. There is no evidence of intracranial 
hemorrhage, mass, or
mass effect. No metastasic lesions are visulized, however CT 
with contrast
is not able to provide the same anatomical detail comparable to 
MRI with and
without contrast.
.
PET CT: ___
MPRESSION: 1. Widespread metastatic disease. 2. Malignant soft 
tissue nodule
in the deep right breast is most likely a metastasis from lung 
cancer (given
second subcutaneous deposit in the anterior abdominal wall), but 
the possibility
of a second breast primary remains a remote consideration. 3. 
Suspicious
focus in the pancreas is also likely a metastasis, but again, a 
primary
malignancy would be difficult to entirely exclude.
.
ECHO: ___
The left atrium is normal in size. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF 60-70%). Right ventricular chamber size and free wall 
motion are normal. There are focal calcifications in the aortic 
arch. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. Trace aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. There is 
no mitral valve prolapse. Trivial mitral regurgitation is seen. 
There is mild pulmonary artery systolic hypertension. The main 
pulmonary artery is dilated.
.
There is a small to moderate sized pericardial effusion. The 
effusion appears circumferential. There is brief right atrial as 
well as right ventricular free wall diastolic invagination. 
However, there is no major respirophasic variation of right or 
left ventriculart inflow. These findings suggest that increased 
pericardial pressure is present, without major impairment of 
ventricular filling or frank cardiac tamponade. Serial clinical 
and echocardiographic followup is recommended. 
.
ECHO ___:
Overall left ventricular systolic function is normal (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets (3) are mildly thickened. The mitral 
valve leaflets are mildly thickened. There is a small to 
moderate sized pericardial effusion. The effusion appears 
circumferential. There are no echocardiographic signs of 
tamponade. There is brief right atrial diastolic collapse. 
.
Compared with the prior study (images reviewed) of ___, no 
right ventricular diastolic invagination is appreciated. The 
pericardial effusion appears slightly smaller.
.
___:
IMPRESSION:
1. No evidence of aortic dissection or pulmonary embolism to the 
subsegmental
level.
2. Increased dense nonenhancing right lower lobe consolidation 
consistent
with pneumonia, with additional increased predominantly 
ground-glass
consolidation / post obstructive changes (due to right hilar 
mass /
adenopathy) within the posterior portion of the left upper lobe 
and adjacent
to the right pleural effusion, which are also presumably 
infectious in
etiology. Please note reexpansion edema involving a portion of 
the right lower
lobe may also have a similar appearance.
3. Increased enhancing atelectasis involving the left lower lobe 
with left
pleural fluid noted to insinuate around regions of "drowned" 
lung.
4. No significant interval change in the degree of previously 
described
adenopathy and a dominant right hilar mass, with stable mass 
effect on right
upper lobe and bronchus intermedius bronchi. Stable mass effect 
on the right
upper lobe pulmonary artery, which remains patent.
5. Unchanged soft tissue density within the deep right breast, 
which was
noted to be FDG-avid.
6. Unchanged background emphysema and interstitial septal 
thickening, which
is worrisome for lymphangitic carcinomatosis.
7. Stable lytic metastatic lesions and thickening of the left 
adrenal gland.
.
___:
Cytology ReportPLEURAL FLUIDProcedure Date of ___
  
REPORT APPROVED ___
SPECIMEN ___    ___    PLEURAL FLUID
 
SPECIMEN DESCRIPTION: Received 1,300 ml of bloody fluid.
  Prepared 1 ThinPrep slide.
 
CLINICAL DATA: 73 with metastatic NSCLA with R pleural 
effusion.
PREVIOUS BIOPSIES:
___ PLEURAL FLUID
___ PERITONEAL WASHINGS
REPORT ___. ___
 
___: Pleural fluid:
  
  ATYPICAL.
  
  Clusters of atypical epithelioid cells on cell block
  (___) only. The cells are negative for ___ 31,
  B72.3, TTF-1 and CEA and cannot be further classified.
  
DIAGNOSED BY:
___, CT(___)
___, M.D.
 
(___)
.
___: TTE
Overall left ventricular systolic function is normal (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets are mildly thickened. The mitral valve 
leaflets are mildly thickened. There is a small to moderate 
sized pericardial effusion. The effusion appears 
circumferential. No right ventricular diastolic collapse is 
seen. There is brief right atrial diastolic collapse. There is 
significant, accentuated respiratory variation in 
mitral/tricuspid valve inflows, consistent with impaired 
ventricular filling. 

Compared with the prior study (images reviewed) of ___, 
the resting heart rate is faster and respiratory variation in 
mitral valve inflow is present (this may be secondary to other 
entities than impending tamponade such as volume depletion or 
lung disease). Left ventricular function is more vigorous. 
.
___: CXR
FINDINGS: As compared to the previous examination, there is 
increasing
consolidation and volume loss in the right upper lobe. The 
perihilar right
lung areas, notably neighboring a hilar mass, are denser than on 
the previous
examination. A pre-existing right-sided pleural effusion is 
unchanged, and
the expansion of the right lower lobe is slightly improved as 
compared to the
previous exam. No pathologic changes in the left lung.
.
Discharge Labs:
___ 06:40AM BLOOD WBC-4.6 RBC-3.37* Hgb-10.0* Hct-29.9* 
MCV-89 MCH-29.7 MCHC-33.5 RDW-13.0 Plt ___
___ 06:40AM BLOOD Plt ___
___ 07:10AM BLOOD ___ PTT-33.6 ___
___ 06:40AM BLOOD Glucose-97 UreaN-23* Creat-0.7 Na-136 
K-3.8 Cl-100 HCO3-29 AnGap-11
___ 07:10AM BLOOD ALT-12 AST-15 LD(LDH)-168 AlkPhos-91 
TotBili-0.6
___ 06:40AM BLOOD Calcium-8.2* Phos-2.6* Mg-2.___ with newly diagnosed metastatic NSCLC here with dyspnea and 
new 02 requirement.
.
# Dyspnea, Hypoxia: The patients initial differential included 
worsening atelectasis, bronchospasms, worsening effusions, 
post-obstructive PNA, anxiety, anemia. The patient was admitted 
on Prednsione 80mg PO Daily which was tapered down during her 
hospital course in addition to receiving nebs PRN. CXR revealed 
a large R sided effusion and the  pt underwent thoracentesis on 
___ during which 2.1L were removed. That evening the pt had an 
episode of desaturation requiring up to 10L with CXR evidence of 
re-expansion pulmonary edema, this improved somewhat with 
diuresis, but CT chest ___ showed marked worsening of effusions 
& dense consolodate of RLL with ground glass opacities 
surrounding. A second thoarcenetsis was then performed which was 
complcated by a PTX after which a chest tube was placed for 24 
hrs without complication. The patient was placed on Levo/Flagyl 
for a questionable post-obstructive PNA. The chest tube was 
removed and ___ 48hrs the patient an the patients 02 requirement 
resolved. The patient was discharged on room air with home 02 
PRN.
.
# Metastatic NSCLC: PET-CT revealed wide-spread metastatic 
disease. Pathology "poorly differentiated neuroendocrine 
carcinoma of pulmonary origin, probably best characterized as 
large cell type". Potentially the etiology of the patients SOB. 
The patient was initiated on her first cycle of 
Cabroplatin/Etoposide on ___ for 3 days. The patient tolerated 
the treatment during her hospital course without complications.
.
# Pericardial effusion: A pericardial effusion was noted on CT 
prior to admittion. TTE (details above) revealed early signs of 
tamponade on ___, this was improved on ___ echo. Care was 
taken during diureses not to drop the patients BP. (The patient 
tolerated doses of 20IV lasix, although 40IV lasix caused 
asymptomatic drops to the mid ___ systolically). The patient 
required no interventions and the patients TTE was repeated on 
___ prior to d/c (details above).
.
# Anxiety: Continued anxiety over the past ___ weeks. Has been 
taking Ativan and Valium while at home.The patient was continued 
on Ativan 0.5-1mg as needed.
.
# HTN: BP controlled.The patients BP was exchanged (Toprol XL 
50mg for Metoprolol 25mg PO BID) while in house.
 
Medications on Admission:
HYDROCODONE-ACETAMINOPHEN - 5 mg-500 mg Tablet - ___ Tablet(s) 
by  
mouth every six (6) hours as needed for pain  
LORAZEPAM - (Prescribed by Other Provider) - 1 mg Tablet -  
Tablet(s) by mouth  
METOPROLOL SUCCINATE - (Prescribed by Other Provider) - 50 mg  
Tablet Sustained Release 24 hr - 1 (One) Tablet(s) by mouth qd  
- OTC  
ACETAMINOPHEN [TYLENOL ARTHRITIS] - (___) - 650 mg Tablet  
Sustained Release - Tablet(s) by mouth as needed for pain  
ASPIRIN [BABY ASPIRIN] - (OTC) - 81 mg Tablet, Chewable - 1  
Tablet(s) by mouth once a day  
DOCUSATE SODIUM [DOCUSIL] - 100 mg Capsule - 1 Capsule(s) by  
mouth twice a day as needed for while on pain med HOLD if having 
 
diarrhea  
IBUPROFEN [MOTRIN] - (___) - 600 mg Tablet - 1 Tablet(s) by  
mouth twice a day as needed for pain  

 
Discharge Medications:
1. Home O2 therapy ___
Patient requires home O2 for hypoxia with malignant pleural 
effusion
2. Prednisone 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
for 4 days: to complete taper.
Disp:*4 Tablet(s)* Refills:*0*
3. Percocet ___ mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed for pain: do not drive or drink alcohol with 
this medication.  
4. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for anxiety: do not drink or drink alcohol with 
this medication.  
5. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.  
6. Tylenol ___ mg Tablet Sig: ___ Tablets PO every six (6) hours 
as needed for pain.  
7. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Community acquired pneumonia
Pleural Effusion
Pericardial effusion
.
Secondary Diagnosis:
Non small cell lung cancer
Anxiety

 
Discharge Condition:
Good, on RA. Desats to the high ___ when climbing stairs. At her 
mental baseline.

 
Discharge Instructions:
You were admitted with shortness of breath.  You were found to 
have both a pneumonia and fluid in your lung (pleural effusion). 
 You underwent a thoracentesis with removal of fluid in your 
lung.  Your chest x rays have been stable since then, as well as 
your echocardiogram.
.
Please continue your home medications as before.  You have 
completed a course of antibiotics for presumed pneumonia.  
Additionally, we are tapering your steroids starting by your 
primary physician.  Please continue Prednisone 10mg daily for an 
additional 4 days and then stop.
.
Please follow up with Dr. ___ on ___ as scheduled, and 
follow up with Dr. ___ in 2 weeks to reassess your pericardial 
effusion
.
Please return to the hospital if you experience worsening 
shortness of breath, chest pain, high fever, or low blood 
pressure
 
Followup Instructions:
___